US08492582B2
Acetic acid (0.023 mL), 2-(tert-butyldimethylsilyloxy)acetaldehyde (0.046 mL), and sodium triacetoxyborohydride (0.11 g) were sequentially added to a tetrahydrofuran (1.0 mL) solution of methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate (0.11 g), followed by stirring at room temperature for 13 hours. The solvent was evaporated under reduced pressure, and ethyl acetate was added to the residue. After removal of the insoluble substance by filtration, a saturated aqueous solution of sodium bicarbonate was added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-92% chloroform/methanol] to obtain 0.13 g of methyl 2-(2-(benzyloxy)-5-(1-(2-(tert-butyldimethylsilyloxy)ethyl)piperidin-4-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | Acetic acid | 0.023 mL | C(C)(=O)O | C2H4O2
reactant | 2-(tert-butyldimethylsilyloxy)acetaldehyde | 0.046 mL | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | sodium triacetoxyborohydride | 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.11 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCNCC1 | C33H32N2O4
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | methyl 2-(2-(benzyloxy)-5-(1-(2-(tert-butyldimethylsilyloxy)ethyl)piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)CCO[Si](C)(C)C(C)(C)C | C41H50N2O5Si
